US06265349B1
Preparation of 3-(5-acetylthio-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-85)
To 50 ml of acetic acid, 3.1 g (7.7 mmol) of 3-(4-chloro-5-chlorosulfonyl-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone, 1.2 g (38 mmol) of red phosphorus and 0.12 g (0.47 mmol) of iodine were added, followed by heating and refluxing for 1 hour. After cooling, insoluble substances were filtered off, and majority of acetic acid was distilled off. Then, the obtained residue was poured into water and extracted with ethyl acetate. After washing with water and a saturated sodium hydrogencarbonate aqueous solution, the organic layer was washed with anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 2.8 g (yield: 98%) of the desired product. Melting point: 91-92° C.

reactant | 3-(4-chloro-5-chlorosulfonyl-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 7.7 mmol, 3.1 g | ClC1=CC(=C(C=C1S(=O)(=O)Cl)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C13H7Cl2F4NO3S
reactant | iodine | 0.47 mmol, 0.12 g | II | I2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(5-acetylthio-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 2.8 g, yield: 98% | C(C)(=O)SC=1C(=CC(=C(C1)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F)Cl | C15H10ClF4NO2S
